US03975388
b. 6-(3-Amino-4-methoxyphenyl)-4,5-dihydro-3(2H)-pyridazinone
This was prepared in 95% yield by reaction of 3-(3-amino-4-methoxybenzoyl)-propionic acid with hydrazine hydrate in ethanolic solution at reflux temperature for 5 hours. It had m.p. 218°-220°C after crystallisation from ethanol.

reactant | 3-(3-amino-4-methoxybenzoyl)-propionic acid | NC=1C=C(C(=O)CCC(=O)O)C=CC1OC | C11H13NO4
reactant | hydrazine hydrate | O.NN
product | 6-(3-Amino-4-methoxyphenyl)-4,5-dihydro-3(2H)-pyridazinone | 95% yield | NC=1C=C(C=CC1OC)C=1CCC(NN1)=O | C11H13N3O2
